US06444786B1
trans4-Decenal (7.2 g, 46.6 mmol) was mixed with 40 mL (0.37 moL) of aminoacetaldehyde dimethylacetal in 400 mL of methanol and stirred at room temperature for 30 minutes. NaCNBH3 (2.9 g, 46.6 mmol) was added, the reaction was cooled in an ice bath, and 27 mL (0.35 moL) of TFA was added dropwise over 5 minutes. The ice bath was then removed and the reaction was stirred for 70 minutes at room temperature, concentrated to a third of its volume, and partitioned between ethyl acetate (250 mL) and 1N NaOH (200 mL). The organic layer was washed with water (3×75 mL), dried over MgSO4, filtered and concentrated under reduced pressure to yield 11.1 g (45.6 mmol) of 2-(trans-dec-4-en-1-ylamino)acetaldehyde dimethyl acetal as a yellow oil that was used directly in the next step.

reactant | trans4-Decenal | 46.6 mmol, 7.2 g | C(CC\C=C\CCCCC)=O | C10H18O
reactant | aminoacetaldehyde dimethylacetal | 40 mL | COC(CN)OC | C4H11NO2
reactant | NaCNBH3 | 46.6 mmol, 2.9 g | [BH3-]C#N.[Na+]
reactant | TFA | 27 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methanol | 400 mL | CO | CH4O
product | 2-(trans-dec-4-en-1-ylamino)acetaldehyde dimethyl acetal | 45.6 mmol, 11.1 g | COC(CNCCC\C=C\CCCCC)OC | C14H29NO2
